US05179108
a) Ethyl indan-2-carbamate
200 ml of dichloromethane then 10 ml, i.e. 7.26 g (71.7 mmol) of triethylamine were added to 5 g (29.5 mmol) of 2-aminoindan hydrochloride. The mixture was stirred for 30 min, then 3.4 ml, i.e. 3.84 g (35.4 mmol) of ethyl chloroformate were added dropwise. The mixture was stirred for 30 min, then ice-water and an excess of 1N hydrochloric acid were added. The precipitate was filtered, washed, dried and purified by chromatography on a silica gel column, eluted with an 80:20 mixture of dichloromethane/ethyl acetate. 4.25 g of amorphous solid were isolated.

reactant | triethylamine | 71.7 mmol, 7.26 g | C(C)N(CC)CC | C6H15N
reactant | 2-aminoindan hydrochloride | 29.5 mmol, 5 g | Cl.NC1CC2=CC=CC=C2C1
reactant | ethyl chloroformate | 35.4 mmol, 3.84 g | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl indan-2-carbamate | 4.25 g | C1C(CC2=CC=CC=C12)NC(=O)OCC | C12H15NO2
